US20010021710A1
(±)-cis-7-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane
In an manner analogous to that described in step 5 for Example 7, (±)-cis-7-methoxy-3-(3-methoxyphenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane (0.355 g, 0.75 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as an off-white foam.

reactant | (±)-cis-7-methoxy-3-(3-methoxyphenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane | 0.75 mmol, 0.355 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H35NO4
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C28H31NO4
